US07250418B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-2-ylpyrrolidin-3-yl]-3,6-diethyl pyrazin-2-amine
Following the procedure for the preparation of N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine but substituting 2-bromopyridine and 1,3-Bis(2,6-di-l-propylphenyl)-4,5-dihydro-imidzaolium tetrafluoroborate, and starting with 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.17, 1.24–1.34, 2.51, 2.76, 3.56, 3.76, 3.86, 3.99, 4.25, 4.91, 5.25, 6.61, 6.90, 7.02, 7.25, 8.41; IR (diffuse reflectance) 2352 (w), 2340 (w), 2062 (w), 1940 (w), 1906 (w), 1600 (s), 1567, 1559, 1555, 1482 (s), 1474 (s), 1441 (s), 1392, 1287, 1229 cm−1 HRMS (ESI) calcd for C26H32N5O2Cl+H1 482.2322. found 482.2332.

reactant | N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=N1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C25H33N7O2
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C21H29ClN4O2
product | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-pyridin-2-ylpyrrolidin-3-yl]-3,6-diethyl pyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=NC=CC=C1)CC | C26H32ClN5O2
